US07629362B2
Concentrated sulfuric acid (0.441 ml; 8.27 mmol) was dropped into a suspension (35 ml) of 3.86 g (32.2 mmol) of magnesium sulfate in dichloromethane and, after completion of the dropping, the mixture was stirred at room temperature for 20 minutes. After that, 750 mg (3.91 mmol) of 3,6-dichloro-2-pyridinecarboxylic acid and dichloromethane (10 ml) solution of 3.84 ml (40.2 mmol) of tert-butyl alcohol were added to the reaction solution at room temperature followed by stirring rapidly at room temperature for 15 hours. Under ice-cooling, an aqueous solution (40 ml) of 3.0 g of sodium carbonate was dropped thereinto followed by stirring until the reaction solution became a homogeneous solution. The reaction solution was extracted with chloroform and the organic layer was washed with a saturated aqueous saline solution, dried and concentrated in vacuo. The resulting residue was purified by a silica gel column chromatography (hexane:ethyl acetate=97:3) to give 644 mg (yield: 66%) of tert-butyl 3,6-dichloro-2-pyridinecarboxylate as a white solid.

reactant | sulfuric acid | 8.27 mmol, 0.441 ml | S(O)(O)(=O)=O | H2O4S
reactant | magnesium sulfate | 32.2 mmol, 3.86 g | S(=O)(=O)([O-])[O-].[Mg+2]
reactant | 3,6-dichloro-2-pyridinecarboxylic acid | 3.91 mmol, 750 mg | ClC=1C(=NC(=CC1)Cl)C(=O)O | C6H3Cl2NO2
reactant | tert-butyl alcohol | 40.2 mmol, 3.84 ml | C(C)(C)(C)O | C4H10O
reactant | sodium carbonate | 40 ml, 3.0 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | tert-butyl 3,6-dichloro-2-pyridinecarboxylate | 644 mg, yield: 66% | ClC=1C(=NC(=CC1)Cl)C(=O)OC(C)(C)C | C10H11Cl2NO2
